US07332501B2
a) 6-Chloro-3-formyl-1H-indole-2-carboxylic acid ethyl ester
To a stirred solution of 2.36 g (0.011 mol) of 6-chloro-1H-indole-2-carboxylic acid ethyl ester in DMF (20 ml) was added phosphorus oxychloride (1.08 ml, 0.012 mol) at RT. The solution was heated at 60° C. for 2 hours, then cooled to RT, and poured into water. The ph was adjusted to 7 by careful addition of aq. NaOH 2N. The resulting brown precipitate was collected by filtration and dried over night in a vacuum oven (50° C.). The title compound was obtained as light brown solid, 2.05 g (77%).

reactant | 6-chloro-1H-indole-2-carboxylic acid ethyl ester | 0.011 mol, 2.36 g | C(C)OC(=O)C=1NC2=CC(=CC=C2C1)Cl | C11H10ClNO2
reactant | phosphorus oxychloride | 0.012 mol, 1.08 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | O | H2O
reactant | NaOH | 2N | [OH-].[Na+]
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 6-Chloro-3-formyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC(=CC=C2C1C=O)Cl | C12H10ClNO3
